US08937091B2
2-(N-aminopropylaminobutyl)aminoethyl-2-naphthylketone 8383
Acetyl naphthalene (170 mg), spermidine (145 mg), and paraformaldehyde (36 mg) were reacted in dioxane (0.2 ml) at 150° C. for 2 hours.

reactant | Acetyl naphthalene | 170 mg | C(C)(=O)C1=CC=CC2=CC=CC=C12 | C12H10O
reactant | spermidine | 145 mg | NCCCCNCCCN | C7H19N3
reactant | paraformaldehyde | 36 mg | C=O | CH2O
reactant | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(N-aminopropylaminobutyl)aminoethyl-2-naphthylketone | NCCCNCCCCNCCC(=O)C1=CC2=CC=CC=C2C=C1 | C20H29N3O
